US08871756B2
2-(4-{[(3-Aminooxetan-3-yl)methyl]amino}-6-methylquinazolin-2-yl)-1,2,3,4-tetrahydro-5H-2-benzazepin-5-one
The title compound was prepared in analogy to Example 62-1 in Scheme 23 by using 2-(4-hydroxy-6-methylquinazolin-2-yl)-1,2,3,4-tetrahydro-5H-2-benzazepin-5-one and 3-(aminomethyl)oxetan-3-amine. MS obsd. (ESI+) [(M+H)+] 404, 1H NMR (400 MHz, CD3OD) δ ppm 7.94 (s, 1 H), 7.90 (d, 1 H), 7.75 (d, 1 H), 7.65-7.55 (m, 3 H), 7.45 (t, 1 H), 5.40 (s, 2 H), 4.77-7.72 (m, 4 H), 4.40 (s, 2 H), 4.05 (brs, 2 H), 3.35 (t, 2 H), 2.43 (s, 3 H).

reactant | 2-(4-hydroxy-6-methylquinazolin-2-yl)-1,2,3,4-tetrahydro-5H-2-benzazepin-5-one | OC1=NC(=NC2=CC=C(C=C12)C)N1CC2=C(C(CC1)=O)C=CC=C2 | C19H17N3O2
reactant | 3-(aminomethyl)oxetan-3-amine | NCC1(COC1)N | C4H10N2O
product | 2-(4-{[(3-Aminooxetan-3-yl)methyl]amino}-6-methylquinazolin-2-yl)-1,2,3,4-tetrahydro-5H-2-benzazepin-5-one | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CC2=C(C(CC1)=O)C=CC=C2 | C23H25N5O2
